* C:\users\srikanth\Desktop\1\gvv1.asc
XU1 0 N001 vcc -vcc N002 LM741/NS
R1 N001 0 15K
V1 0 -vcc 12
V2 vcc 0 12
Is N001 0 SINE(0 1 1000)
M1 Vout N002 N001 N001 NMOS  w=100u  l=10u
R2 0 Vout 1
.model NMOS NMOS Vto=1.5V kp=200u
.include LM741.MOD
.tran 0 10m 0 0.01
*.backanno
.control
run
plot V(vout)
wrdata ee18btech11023.dat V(Vout)
.endc
.end
